US04529698
(E) (trans)-3-(t-Butoxycarbonylamino)-4-cyclohexyl-2-azetidinone
(trans)-3-(t-Butoxycarbonylamino)-4-cyclohexyl-1-methoxy-2-azetidinone (1 g) is added to 50 ml of liquid ammonia with stirring. Sodium (0.154 g) is added in 5 to 6 portions within 5 minutes. After this time an additional amount of 0.025 g sodium is added and stirring is continued for 5 minutes. Ammonium chloride (0.89 g) is added and the ammonia is removed. The residue is extracted with warm ethyl acetate. The organic extract is evaporated to dryness and the remaining crystals of the title compound are filtered with petrol ether, yielding 0.5 g, melting point 130°-132° C.

reactant | (trans)-3-(t-Butoxycarbonylamino)-4-cyclohexyl-1-methoxy-2-azetidinone | 1 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1C1CCCCC1)OC)=O | C15H26N2O4
reactant | ammonia | N | H3N
reactant | Sodium | 0.154 g | [Na] | Na
reactant | sodium | 0.025 g | [Na] | Na
reactant | Ammonium chloride | 0.89 g | [Cl-].[NH4+]
product | (trans)-3-(t-Butoxycarbonylamino)-4-cyclohexyl-2-azetidinone | C(C)(C)(C)OC(=O)N[C@@H]1C(N[C@H]1C1CCCCC1)=O | C14H24N2O3
